US04507498
A mixture of 5.4 g of racemic-[4-acetyl-3-[3-(4-acetyl-3-hydroxy-2-propylphenoxy)propoxy]-2-propylphenoxy]methylacetic acid ethyl ester in 100 ml of methanol and 50 ml of 1N sodium hydroxide was stirred at reflux for 2 hours. The methanol was removed in vacuo and the pH of the residue was adjusted to 2.0 with 6N hydrochloric acid. The gummy product was extracted with methylene chloride and the extract was dried over magnesium sulfate and concentrated in vacuo to an oil. The crude acid was dissolved in 50 ml of methanol and 10 ml of 1.0N sodium hydroxide was added. The methanol was removed in vacuo, 25 ml of water was added and the sodium salt (0.33 molar hydrate) of racemic-[4-acetyl-3-[3-(4-acetyl-3-hydroxy-2-propylphenoxy)propoxy]-2-propylphenoxy]methylacetic acid was filtered and dried to give 4.2 g (78%), mp 92°-95°. The sodium salt was converted with 1N hydrochloric acid to the acid, which crystallized on addition of hexane. Filtration gave racemic-[4-acetyl-3-[3-(4-acetyl-3-hydroxy-2-propylphenoxy)propoxy]-2-propylphenoxy]methylacetic acid, mp 123°-126°.

reactant | racemic-[4-acetyl-3-[3-(4-acetyl-3-hydroxy-2-propylphenoxy)propoxy]-2-propylphenoxy]methylacetic acid ethyl ester | 5.4 g | C(C)OC(CCOC1=C(C(=C(C=C1)C(C)=O)OCCCOC1=C(C(=C(C=C1)C(C)=O)O)CCC)CCC)=O | C30H40O8
reactant | sodium | [Na] | Na
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 100 ml | CO | CH4O
solvent | sodium hydroxide | 1N, 50 ml | [OH-].[Na+]
product | racemic-[4-acetyl-3-[3-(4-acetyl-3-hydroxy-2-propylphenoxy)propoxy]-2-propylphenoxy]methylacetic acid | C(C)(=O)C1=C(C(=C(OCCC(=O)O)C=C1)CCC)OCCCOC1=C(C(=C(C=C1)C(C)=O)O)CCC | C28H36O8
